US06921763B2
A suspension of the crude tert-butyl 3-(4-amino-3-iodo-1H-pyrazolo[3,4-d]pyrimidin-1-yl)-1-pyrrolidinecarboxylate in acetone (100 mL) was treated with 6 N hydrochloric acid (50 mL). The reaction mixture was stirred at 40° C. for 15 hours. The initial precipitate was filtered and confirmed by LCMS to be impurities. The reaction mixture was allowed to sit at room temperature and a precipitate formed over night. The precipitate was filtered and washed with diethyl ether. The filtration afforded 2.186 g (31%) of pure 3-iodo-1-tetrahydro-1H-3-pyrrolyl-1H-pyrazolo[3,4-d]pyrimidin-4-amine hydrochloride. 1H NMR (DMSO-d6, 400 MHz) δ 9.8815 (s, 1H), 8.9923 (br.s, 1H), 8.4803 (s, 1H), 7.82 (br.s, 1H), 5.5908-5.5295 (m, 1H), 3.7131-3.6706 (m, 1H), 3.5590-3.5003 (m, 1H), 3.4466-3.4174 (m, 2H), 2.4592-2.4255 (m, 1H), 2.4064-2.3146 (m, 1H); LCMS (Thermoquest AQA single-quad MS, Genesis C18 column, 3 μm particle size, 33×4.6 mm; 70% 50 mM ammonium acetate in water to 95% acetonitrile over 6 min, 0.8 to 0.5 mL/min) Rt 1.09 min (100%), MH+ 331.0.

reactant | tert-butyl 3-(4-amino-3-iodo-1H-pyrazolo[3,4-d]pyrimidin-1-yl)-1-pyrrolidinecarboxylate | NC1=C2C(=NC=N1)N(N=C2I)C2CN(CC2)C(=O)OC(C)(C)C | C14H19IN6O2
reactant | hydrochloric acid | 6 N, 50 mL | Cl | ClH
solvent | acetone | 100 mL | CC(=O)C | C3H6O
product | 3-iodo-1-tetrahydro-1H-3-pyrrolyl-1H-pyrazolo[3,4-d]pyrimidin-4-amine hydrochloride | 2.186 g, 31% | Cl.IC1=NN(C2=NC=NC(=C21)N)C2CNCC2 | InChI=1S/C9H11IN6.ClH/c10-7-6-8(11)13-4-14-9(6)16(15-7)5-1-2-12-3-5;/h4-5,12H,1-3H2,(H2,11,13,14);1H
